US07585880B2
ethyl (2E)-3-(2,6-difluoro-4-methoxyphenyl)acrylate
A solution of ethyl diethylphosphonoacetate (2.34 g, 10.4 mmol) and 60% sodium hydride (0.38 g, 9.50 mmol) in tetrahydrofuran (40 mL) was stirred under ice-cooling for 10 min. Thereto was added 2,6-difluoro-4-methoxybenzaldehyde (1.5 g, 8.71 mmol) and the mixture was stirred for 4 hr while allowing to warm to room temperature. The reaction solution was diluted with ethyl acetate, washed successively with aqueous citric acid solution, water and aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (ethyl acetate:hexane=1:10-1:5) to give the title compound (1.1 g, yield 52%) as colorless needles.

reactant | ethyl diethylphosphonoacetate | 10.4 mmol, 2.34 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 9.50 mmol, 0.38 g | [H-].[Na+]
reactant | 2,6-difluoro-4-methoxybenzaldehyde | 8.71 mmol, 1.5 g | FC1=C(C=O)C(=CC(=C1)OC)F | C8H6F2O2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl (2E)-3-(2,6-difluoro-4-methoxyphenyl)acrylate | 1.1 g, yield 52% | FC1=C(C(=CC(=C1)OC)F)/C=C/C(=O)OCC | C12H12F2O3
